US04474692
L-Alanyl-N-(indan-2-yl)glycine tert-butyl ester oxalate (21 g) is dissolved in 200 ml of ethanol. To the solution 4.1 g of sodium acetate, 10 ml of acetic acid, 25 g of ethyl 2-oxo-4-phenylbutyrate and 25 g of molecular sieve 3A are added in sequence. Thereafter, 30 g of Raney nickel suspended in 100 ml of ethanol is added with ethanol, and catalytic reduction is carried out under ordinary temperature and ordinary pressure. When the absorption of hydrogen has cased, the supernatant is separated by decantation, and the precipitate is washed two or three times with ethanol. The supernatant and the washings are combined and concentrated under reduced pressure. The residue is dissolved in 500 ml of ethyl acetate, and the solution is washed with aqueous sodium hydrogen carbonate and filtered with 30 g of diatomaceous earth. The ethyl acetate layer is separated from the filtrate, washed with water and dried over anhydrous magnesium sulfate, and the solvent is distilled off under reduced pressure to give 24 g of N-(1-ethoxycarbonyl- 3-phenylpropyl)-L-alanyl-N-(indan-2-yl)glycine tert-butyl ester as a slightly yellow, viscous oil.

reactant | L-Alanyl-N-(indan-2-yl)glycine tert-butyl ester oxalate | 21 g | C(C(=O)O)(=O)O.C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N)C)=O)=O
reactant | sodium acetate | 4.1 g | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 2-oxo-4-phenylbutyrate | 25 g | O=C(C(=O)OCC)CCC1=CC=CC=C1 | C12H14O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Raney nickel | 30 g | [Ni] | Ni
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N-(1-ethoxycarbonyl- 3-phenylpropyl)-L-alanyl-N-(indan-2-yl)glycine tert-butyl ester | 24 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](NC(CCC1=CC=CC=C1)C(=O)OCC)C)=O)=O | C30H40N2O5
